US07309703B2
A. 6-Chloro-2-piperazin-1-yl-benzothiazole
To a stirred solution of 1.07 g (5.24 mmol) of 2,6-dichlorobenzothiazole in dry DMF (25 mL) was added 2.4 g of potassium carbonate (15.7 mmol) and 0.5 g of piperazine (5.8 mmol). The mixture was stirred at room temperature for 4 h. When the reaction was complete it was partitioned between EtOAc (150 mL) and water (50 mL) and separated. The aqueous layer was extracted with EtOAC (2×100 mL). The combined organic layers were then washed with water (2×25 mL), brine, dried over Na2SO4, and the solvent was removed under reduced pressure to give 1.33 g (100%) of desired product as a white solid. MS (electrospray): exact mass calculated for C11H12ClN3S, 253.04; m/z found, 254.0 [M+H]+.

reactant | 2,6-dichlorobenzothiazole | 5.24 mmol, 1.07 g | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | potassium carbonate | 15.7 mmol, 2.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | piperazine | 5.8 mmol, 0.5 g | N1CCNCC1 | C4H10N2
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
product | 6-Chloro-2-piperazin-1-yl-benzothiazole | 1.33 g, 100% | ClC1=CC2=C(N=C(S2)N2CCNCC2)C=C1 | C11H12ClN3S
